US08030305B2
6-[6-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinoline
Quinolin-6-yl-acetic acid hydrazide (188 mg, 0.93 mmol) and 3-Chloro-6-(1-methyl-1H-pyrazol-4-yl)-pyridazine (202 mg, 0.93 mmol, Example 1: step a) were dissolved in butanol (120 mL). The reaction mixture was heated to 120° C. overnight fitted with water cooled refluxing condenser and argon line. The reaction was concentrated in vacuo followed by HPLC purification (5-65% CH3CN over 40 min) resulting in the title compound as a tan solid (201.6 mg, 65%).

reactant | Quinolin-6-yl-acetic acid hydrazide | 0.93 mmol, 188 mg | N1=CC=CC2=CC(=CC=C12)CC(=O)NN | C11H11N3O
reactant | 3-Chloro-6-(1-methyl-1H-pyrazol-4-yl)-pyridazine | ClC=1N=NC(=CC1)C=1C=NN(C1)C | C8H7ClN4
reactant | water | O | H2O
solvent | butanol | 120 mL | C(CCC)O | C4H10O
product | 6-[6-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinoline | 201.6 mg, 65% | CN1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C19H15N7
